US04346087
Into an apparatus similar to that in Example 1, were charged 103.1 g (1 mole) of diethylenetriamine and 284.5 g (1 mole) of isostearic acid. At 200° to 210° C., 18 g of water was distilled off to effect the monoamide formation. Then, after the addition of 130.1 g (1 mole) of ethyl acetoacetate, 18 g of water and 46 g of ethanol were distilled off at 150° to 160° C. to obtain 4-isostearamidoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | diethylenetriamine | 1 mole, 103.1 g | NCCNCCN | C4H13N3
reactant | isostearic acid | 1 mole, 284.5 g | C(CCCCCCCCCCCCCCC(C)C)(=O)O | C18H36O2
reactant | ethyl acetoacetate | 1 mole, 130.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | water | 18 g | O | H2O
solvent | ethanol | 46 g | C(C)O | C2H6O
product | 4-isostearamidoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCCCCCC(C)C)(=O)NCCN1CCN=C(CC1=O)C | C26H49N3O2
